US05486532
Stage A: 2-Amino-2-cyano-8-chloro-1,2,3,4-tetrahydronaphthalene
To a vigorously stirred solution, maintained under nitrogen, containing 43 mmol of 8-chloro-3,4-dihydro-2(1H)-naphthalenone in 60 ml of ethanol and 30 ml of water are successively added 44 mmol of potassium cyanide and 44 mmol of ammonium chloride. After stirring for 20 hours at 20° C., the mixture is concentrated under vacuum and the residue is taken up in 80 ml of ethyl acetate. This organic phase is washed with water and is then extracted with 1N hydrochloric acid. The aqueous phase is basified with 35% sodium hydroxide and extracted with ethyl acetate. The expected product is obtained after drying and evaporation of the organic phase as a solid.

reactant | 8-chloro-3,4-dihydro-2(1H)-naphthalenone | 43 mmol | ClC=1C=CC=C2CCC(CC12)=O | C10H9ClO
reactant | potassium cyanide | 44 mmol | [C-]#N.[K+]
reactant | ammonium chloride | 44 mmol | [Cl-].[NH4+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-Amino-2-cyano-8-chloro-1,2,3,4-tetrahydronaphthalene | NC1(CC2=C(C=CC=C2CC1)Cl)C#N | C11H11ClN2
